US07705025B2
5-{4-[2-(2(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenyl}-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous to General Procedure D in 10 mL 10% DMF/dichloromethane using 4-(5-cyano-thiophen-2-yl)-benzoic acid (CAS 402765-55-9) (360 mg, 1.57 mmol), EDC-HCl (451 mg, 2.36 mmol), HOBt (319 mg, 2.36 mmol), DIEA (1.14 mL, 6.5 mmol) and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine di HCl (314 mg, 1.31 mmol) to give the title compound (60 mg, 13% yield). MS (ES+) 380.3 (M+H)+

reactant | 4-(5-cyano-thiophen-2-yl)-benzoic acid | 1.57 mmol, 360 mg | C(#N)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C12H7NO2S
reactant | EDC-HCl | 2.36 mmol, 451 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 2.36 mmol, 319 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 6.5 mmol, 1.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine di HCl | 1.31 mmol, 314 mg | Cl.Cl.C[C@H]1N(CCC1)C[C@H]1NCCC1
solvent | DMF dichloromethane | 10 mL | CN(C)C=O.ClCCl
product | 4-[2-(2(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenyl}-thiophene-2-carbonitrile | 60 mg, 13% yield | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=C(C=CC=C1)C=1C=C(SC1)C#N | C22H25N3OS
